US09227985B2
Step 4. 2-{2-[7-(3,5-Dimethylisoxazol-4-yl)-2-oxo-1,2,4,5-tetrahydroimidazo[1,5,4-de][1,4]benzoxazin-4-yl]phenoxy}-N-ethylacetamide
A mixture of {2-[7-(3,5-dimethylisoxazol-4-yl)-2-oxo-1,2,4,5-tetrahydroimidazo[1,5,4-de][1,4]benzoxazin-4-yl]phenoxy}acetic acid (0.03 g, 0.07 mmol) in DMF (2.0 mL) with DIPEA (0.025 mL, 0.14 mmol) and HATU (0.027 g, 0.071 mmol) was stirred at room temperature for 10 min. and ethylamine (0.0064 g, 0.14 mmol) was added. The reaction mixture was stirred for 1 h and the product was purified without workup by preparative HPLC on a C-18 column eluting with a water:MeCN gradient buffered pH 2 buffered with TFA to give the title compound as an off-white amorphous solid. LCMS calc. for C24H25N4O5 (M+H)+: m/z=449.1. found: 449.2.

reactant | {2-[7-(3,5-dimethylisoxazol-4-yl)-2-oxo-1,2,4,5-tetrahydroimidazo[1,5,4-de][1,4]benzoxazin-4-yl]phenoxy}acetic acid | 0.07 mmol, 0.03 g | CC1=NOC(=C1C1=CC=C2C=3N(C(COC31)C3=C(OCC(=O)O)C=CC=C3)C(N2)=O)C | C22H19N3O6
reactant | DIPEA | 0.14 mmol, 0.025 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.071 mmol, 0.027 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | ethylamine | 0.14 mmol, 0.0064 g | C(C)N | C2H7N
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | 2-{2-[7-(3,5-Dimethylisoxazol-4-yl)-2-oxo-1,2,4,5-tetrahydroimidazo[1,5,4-de][1,4]benzoxazin-4-yl]phenoxy}-N-ethylacetamide | CC1=NOC(=C1C1=CC=C2C=3N(C(COC31)C3=C(OCC(=O)NCC)C=CC=C3)C(N2)=O)C | C24H24N4O5
